US04929624
2-[(3-Amino-4-quinolinyl)amino]-1-propanol (0.113 mole) as a crude reaction product obtained by the method of Example 4, was mixed with a 20 percent molar excess of diethoxymethyl acetate (22.3 g, 0.136 mole) and heated for 0.75 hour. To the mixture was added 150 ml of water. The resulting mixture was made basic with concentrated ammonium hydroxide, and extracted first with ethyl acetate, then with chloroform. The extracts were combined, dried over magnesium sulfate, and evaporated, slurried in 1:1 chloroform/diethyl ether and separated by filtration to provide the solid product, beta-methyl-1H-imidazo[4,5-c]quinoline-1-ethanol, m.p. 170°-174° C. after recrystallization from ethanol with treatment with decolorizing carbon. Analysis: Calculated for C13H13N3O: %C, 68.7; %H, 5.8; N, 18.5; Found: %C, 68.5; %H, 5.8; %N, 18.5.

reactant | 2-[(3-Amino-4-quinolinyl)amino]-1-propanol | 0.113 mole | NC=1C=NC2=CC=CC=C2C1NC(CO)C | C12H15N3O
reactant | diethoxymethyl acetate | 0.136 mole, 22.3 g | C(C)(=O)OC(OCC)OCC | C7H14O4
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | water | 150 ml | O | H2O
product | beta-methyl-1H-imidazo[4,5-c]quinoline-1-ethanol | CC(CO)N1C=NC=2C=NC=3C=CC=CC3C21 | C13H13N3O
